US05935959
To a solution of 1-(4-fluorophenyl)piperazine dihydrochloride (2.53 g, 10 mmol) in N,N-dimethylformamide (40 ml) were added triethylamine (2.8 ml, 20 mmol) and N-tert-butoxycarbonylphenylalanine p-nitrophenyl ester (2.65 g, 10 mmol) in the order mentioned and the mixture was stirred at room temperature overnight. This reaction mixture was poured into cold water and extracted with ethyl acetate. The extract was washed with 1% aqueous ammonia, saturated saline, 0.1N-hydrochloric acid, saturated saline, saturated aqueous sodium hydrogen carbonate solution, and saturated saline in the order mentioned and the organic layer was dried over anhydrous magnesium sulfate and further concentrated under reduced pressure. The residue was purified by silica gel column chromatography using chloroform-methanol (50:1) to provide 1,1-dimethylethyl 2-(4-(4-fluorophenyl)-1-piperazinyl)-2-oxo-1-(phenylmethyl)ethylcarbamate (2.7 g, 92.2%) as colorless oil.

reactant | 1-(4-fluorophenyl)piperazine dihydrochloride | 10 mmol, 2.53 g | Cl.Cl.FC1=CC=C(C=C1)N1CCNCC1
reactant | triethylamine | 20 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | N-tert-butoxycarbonylphenylalanine p-nitrophenyl ester | 10 mmol, 2.65 g | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C20H22N2O6
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1,1-dimethylethyl 2-(4-(4-fluorophenyl)-1-piperazinyl)-2-oxo-1-(phenylmethyl)ethylcarbamate | 2.7 g, 92.2% | FC1=CC=C(C=C1)N1CCN(CC1)C(C(CC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C24H30FN3O3
